* C:\Users\Anant\Desktop\Analog\analog\analog\6 - Inverting Non Inverting\inverting.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N005 N002 N001 N006 N003 LT1001 ;§pnba In+)In-)V+)V-)OUT
V1 N004 0 PULSE(-1 1 0 0 0 100u 200u)
R1 N002 N004 1k
R2 N003 N002 5k
V2 N001 0 +12
V3 N006 0 -12
C1 N003 N002 0.01µ
R3 N005 0 3k
.tran 0 0.2 0 0.1
.lib LTC.lib
.backanno
.end
